US07592358B2
22.1b. methyl 5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]benzo[b]thiophen-2-carboxylate
Under an argon atmosphere 3.7 mL (26.72 mmol) of triethylamine was added to a solution of 3.4 g (10.69 mmol) of methyl 5-iodobenzo[b]thiophen-2-carboxylate and 2.48 g (10.69 mmol) of 5-(4-chlorophenyl)-2-ethynylpyridine in 20 mL of THF and the reaction mixture was evacuated three times and in each case gassed with argon. Then 195 mg (0.267 mmol) of PdCl2(dppf)*DCM complex and 51 mg (0.267 mmol) of CuI were added and the reaction mixture was stirred for 70 hours at RT. EtOAc was added, and the precipitated product was filtered off, washed with a little EtOAc, and dried in the air. Yield: 3.0 g (70% of theoretical); C23H14ClNO2S (M=403.881); calc.: molpeak (M+H)+: 404/406 (Cl); found: molpeak (M+H)+: 404/406 (Cl); HPLC-MS: 7.3 minutes (method B).

reactant | triethylamine | 26.72 mmol, 3.7 mL | C(C)N(CC)CC | C6H15N
reactant | methyl 5-iodobenzo[b]thiophen-2-carboxylate | 10.69 mmol, 3.4 g | IC1=CC2=C(SC(=C2)C(=O)OC)C=C1 | C10H7IO2S
reactant | 5-(4-chlorophenyl)-2-ethynylpyridine | 10.69 mmol, 2.48 g | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | CuI | 0.267 mmol, 51 mg | [Cu]I
product | methyl 5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]benzo[b]thiophen-2-carboxylate | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC2=C(SC(=C2)C(=O)OC)C=C1 | C23H14ClNO2S
